US07560558B2
Compound 8: Ethyl (E)-3-{2-[(6,7-dimethoxy-4-quinolyl)oxy]-5-methoxyphenyl}-2-methyl-2-propenoate
Sodium hydride (60 wt % oil, 52 mg) was dissolved in anhydrous tetrahydrofuran (1 ml), and a solution (0.5 ml) of triethyl 2-phosphonopropionate (119 mg) in tetrahydrofuran was added dropwise thereto under an argon atmosphere at 0° C. The mixture was stirred at 0° C. for 30 min, and a solution (0.5 ml) of 2-[(6,7-dimethoxy-4-quinolyl)oxy]-5-methoxybenzaldehyde (100 mg) in tetrahydrofuran was then added dropwise thereto. The reaction mixture was stirred at room temperature for one hr, and water (1 ml) was then added dropwise to stop the reaction. The mixture was extracted with ethyl acetate, and the ethyl acetate layer was then washed with water and saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed therefrom by distillation under the reduced pressure, and the residue was purified by chromatography on silica gel using ethyl acetate-hexane for development to give the title compound (64 mg, yield 50%).

reactant | Sodium hydride | 52 mg | [H-].[Na+]
reactant | triethyl 2-phosphonopropionate | 0.5 ml, 119 mg | CCOC(=O)C(C)P(=O)(OCC)OCC | C9H19O5P
reactant | 2-[(6,7-dimethoxy-4-quinolyl)oxy]-5-methoxybenzaldehyde | 0.5 ml, 100 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=O)C=C(C=C1)OC | C19H17NO5
reactant | water | 1 ml | O | H2O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | Ethyl (E)-3-{2-[(6,7-dimethoxy-4-quinolyl)oxy]-5-methoxyphenyl}-2-methyl-2-propenoate | 64 mg, yield 50% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)OC)/C=C(/C(=O)OCC)\C | C24H25NO6
